US06451810B1
Under an argon atmosphere, 1,5-diaminopentane (25 g, 0.24 mol) and benzamide (9.9 g, 0.081 mol) were combined and heated at reflux overnight. The reaction mixture was concentrated under vacuum to remove the excess diamine. The residue was distilled at about 210° C. at 12 torr (16×102 pascals) to provide 11.8 g of N-(5-aminopentyl)benzamide as a colorless oil.

reactant | 1,5-diaminopentane | 0.24 mol, 25 g | NCCCCCN | C5H14N2
reactant | benzamide | 0.081 mol, 9.9 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | N-(5-aminopentyl)benzamide | 11.8 g | NCCCCCNC(C1=CC=CC=C1)=O | C12H18N2O
